US04767768
To a solution of 4-ethyl-2-hydroxy-5-nitrohexane nitrile (1.7 g) in t-butanol (6.8 ml) was added conc. sulfuric acid (0.8 ml) at 0° C. with stirring. After stirring for an hour at room temperature, the mixture was heated at 75° C. for an hour. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed successively with water and brine, dried over magnesium sulfate, and then evaporated to dryness in vacuo. The resulting oil was dissolved in acetic acid (9 ml) and chromium trioxide (0.82 g) was added thereto. The resulting mixture was heated at 100° C. for 1.5 hours, with stirring, concentrated, diluted with water, and then extracted with ethyl acetate. The extract was washed successively with water and brine, and then dried over magnesium sulfate. Removal of the solvent gave an oil which was purified by a preparative thin layer chromatography (solvent: chloroform) to give N-t-butyl-4-ethyl-5-nitro-2-oxo-hexanamide (0.46 g).

reactant | 4-ethyl-2-hydroxy-5-nitrohexane nitrile | 1.7 g | C(C)C(CC(C#N)O)C(C)[N+](=O)[O-] | C8H14N2O3
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | t-butanol | 6.8 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | N-t-butyl-4-ethyl-5-nitro-2-oxo-hexanamide | 0.46 g | C(C)(C)(C)NC(C(CC(C(C)[N+](=O)[O-])CC)=O)=O | C12H22N2O4
